Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Persistent RLE weakness

 
Major Surgical or Invasive Procedure:
___ for Spinal AVM Resection. 

 
History of Present Illness:
___ yo M hx lumbar spinal dural AV fistula/malformation, s/p embo 
and resection 
at ___ ___ yr ago with persistant right lower extremity weakness. 
Now presents electively for redo lumbarectomy for spinal AVM 
resection. 
 
Past Medical History:
Spinal Dural AV Fistula, HLD, HTN, CABG X3, R knee surgery, and 
Seizures. 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Exam On Discharge: 
A&Ox3
Pupils R ___, L ___
Motor: 
   D  B  T  G  IP  Q  H  AT  ___  G
L  ___  5  4+  4+ 4+ 4+  4+   4+
R  ___  ___  ___    3 

Incision: c/d/i with sutures
 
Pertinent Results:
SPINAL ART ___ 
1.  RIGHT L4 SEGMENTAL ARTERY:  Injection demonstrates 
normal-appearing 
segmental artery with no evidence of spinal cord nor fistulous 
supply.  This is the artery that previously had supplied the 
fistula. 
  
2.  LEFT L4:  There is roughly conjoined origin of the bilateral 
L4s, but the left L4 demonstrates no evidence of spinal cord 
supply nor any evidence of fistulous supply. 
  
3.  LEFT L3:  Shows a normal segmental artery with no evidence 
of spinal cord supply nor fistulous supply. 
  
4.  RIGHT L3:  Demonstrates a small segmental artery that has 
previously been embolized and there is only minimal fill in the 
proximal origin of the segmental artery, but there is no 
evidence of fistulous supply or spinal cord supply from this 
level. 
  
5.  LEFT L2:  A normal segmental artery is seen with no evidence 
of spinal 
cord supply nor evidence of fistulous supply. 
  
6.  RIGHT L2:  Roughly conjoined origin of the bilateral L2 
vessels are seen and on the right side there is sluggish flow in 
what looks to be a vessel that had already been previously 
partially embolized with almost thrombosis.  There is no 
evidence of segmental spinal cord supply nor a fistulous supply. 

  
CONCLUSIONS: 
1.  No evidence of residual dural AV fistula. 

 
Brief Hospital Course:
Mr. ___ was brought to the OR on ___ electively for redo 
lumberectomy for spinal AVM resection. The intraoperative course 
was uneventful, please refer to the intraoperative note for 
further information. He was extubated in the OR and was 
transferred to the stepdown unit for close monitoring. Physical 
therapy was consulted. Patient failed voiding trial and foley 
was replaced.

On ___ Patient remains clinically stable. Physical therapy 
worked with patient. Patient to go to diagnositc angiogram 
tomorrow. 

On ___ Patient went for a spinal diagnostic angiogram which 
showed no residual dural AVM. He appeared confused on exam. U/a 
was sent and oxycodone was held. 

On ___, patient remained stable on exam. He was evaluated by 
___ who recommended rehab.

On ___, exam was unchanged. Pain was controlled and he is 
awaiting a rehab disposition. He was accepted at ___ 
and discharged in stable condition.
 
Medications on Admission:
___, keppra, lisinopril, lopressor, sertraline and 
Oxycodone

 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headahces 
2. Docusate Sodium 100 mg PO BID 
3. Famotidine 20 mg PO BID 
4. Heparin 5000 UNIT SC TID 
5. LeVETiracetam 500 mg PO BID 
6. Lisinopril 5 mg PO DAILY 
7. Metoprolol Tartrate 75 mg PO BID 
8. Sertraline 25 mg PO DAILY 
9. Simvastatin 80 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Spinal AVM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Redo Lumbarectomy for Spinal AVM Resection. 
Dr. ___

¨     Do not smoke.

¨     Keep your wound(s) clean and dry / No tub baths or pool 
swimming for two weeks from your date of surgery.

¨     Dressing may be removed on Day 2 after surgery.

¨     No pulling up, lifting more than 10 lbs., or excessive 
bending or twisting.

¨     Limit your use of stairs to ___ times per day.

¨     Have a friend or family member check your incision daily 
for signs of infection.

     Take your pain medication as instructed; you may find it 
best if taken in the morning when you wake-up for morning 
stiffness, and before bed for sleeping discomfort.

¨     Do not take any medications such as Aspirin unless 
directed by your doctor.

¨     Unless you had a fusion, you should take Advil/Ibuprofen  
400mg three times daily

¨     Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.

¨     Clearance to drive and return to work will be addressed at 
your post-operative office visit.

 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

 

¨     Pain that is continually increasing or not relieved by 
pain medicine.

¨     Any weakness, numbness, tingling in your extremities.

¨     Any signs of infection at the wound site: redness, 
swelling, tenderness, and drainage.

¨     Fever greater than or equal to 101° F. 

¨     Any change in your bowel or bladder habits (such as loss 
of bowl or urine control). 

 

 
Followup Instructions:
___